US08466181B2
e) 2-Bromo-1-(1-(2-fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)ethanone
A solution of 1-(1-(2-fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)ethanone (1.66 g, 7.57 mmol) was dissolved in chloroform (12 mL) and acetic (0.24 mL) was heated to reflux and then a solution of bromine (0.41 mL, 7.95 mmol) in chloroform (5 mL) and heated under reflux for 2 h and then bromine (0.12 mL, 2.27 mmol) in chloroforom (2 mL) was added and heated under reflux for a further 30 min. After cooling to room temperature the mixture was poured onto ice-water and the mixture extracted with dichloromethane. The combined organic extracts were washed with water, brine, dried over sodium sulphate, filtered and evaporated. Purification by chromatography (silica, 10 to 60% ethyl acetate in heptane) afforded the title compound (1.54 g, 64%) as an off white solid. MS: m/e=298.1/300.0 [M+H]+.

reactant | 1-(1-(2-fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)ethanone | 7.57 mmol, 1.66 g | FC1=C(C=CC=C1)N1N=NC(=C1C(C)=O)C | C11H10FN3O
reactant | acetic | 0.24 mL | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | bromine | 7.95 mmol, 0.41 mL | BrBr | Br2
reactant | bromine | 2.27 mmol, 0.12 mL | BrBr | Br2
solvent | chloroform | 12 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-Bromo-1-(1-(2-fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)ethanone | 1.54 g, 64% | BrCC(=O)C1=C(N=NN1C1=C(C=CC=C1)F)C | C11H9BrFN3O
